US07829570B2
Benzyl N-{4-[7-amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}carbamate bisacetate
The title compound was prepared from tert-Butyl 4-[7-amino-1-(4-amino-3-methoxyphenyl)-1H-pyrazolo[4,3-d]pyrimidin-3-yl]-1-piperidinecarboxylate and benzyl chloroformate in the manner described for the preparation of N2-{4-[7-amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide: 1H NMR (DMSO-d6, 400 MHz) δ 8.9 (bs, 1H), 8.27 (s, 1H), 7.89 (d, 1H), 7.3-7.4 (m, 5H), 7.17 (s, 1H), 7.06 (d, 1H), 6.6 (bs, 2H), 5.18 (s, 2H), 3.86 (s, 3H), 3.18 (m, 1H), 3.08 (m, 2H), 2.69 (m, 2H), 1.87-1.98 (m, 2H), 1.76 (s, 6H); RP-HPLC (Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 5%-100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 14.27 min; MS: MH+ 474.2, M−H+ 472.2

reactant | tert-Butyl 4-[7-amino-1-(4-amino-3-methoxyphenyl)-1H-pyrazolo[4,3-d]pyrimidin-3-yl]-1-piperidinecarboxylate | NC=1C2=C(N=CN1)C(=NN2C2=CC(=C(C=C2)N)OC)C2CCN(CC2)C(=O)OC(C)(C)C | C22H29N7O3
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | N2-{4-[7-amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | NC=1C2=C(N=CN1)C(=NN2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CCNCC2 | C27H28N8O2
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | Benzyl N-{4-[7-amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}carbamate bisacetate | C(C)(=O)O.C(C)(=O)O.NC=1C2=C(N=CN1)C(=NN2C2=CC(=C(C=C2)NC(OCC2=CC=CC=C2)=O)OC)C2CCNCC2 | InChI=1S/C25H27N7O3.2C2H4O2/c1-34-20-13-18(7-8-19(20)30-25(33)35-14-16-5-3-2-4-6-16)32-23-22(28-15-29-24(23)26)21(31-32)17-9-11-27-12-10-17;2*1-2(3)4/h2-8,13,15,17,27H,9-12,14H2,1H3,(H,30,33)(H2,26,28,29);2*1H3,(H,3,4)
